US07632832B2
Step G. 1-Piperidin-4-yl-4-pyridin-4-ylimidazolidin-2-one
A solution of benzyl 4-(2-oxo-4-pyridin-4-ylimidazolidin-1-yl)piperidine-1-carboxylate (55 mg, 0.145 mmol) in ethanol (15 mL) was hydrogenated at 1 atm hydrogen over palladium on carbon (50 mg). After 16 h, the reaction was filtered and concentrated to give the title product. MS 247.2 (M+1)

reactant | benzyl 4-(2-oxo-4-pyridin-4-ylimidazolidin-1-yl)piperidine-1-carboxylate | 0.145 mmol, 55 mg | O=C1N(CC(N1)C1=CC=NC=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H24N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 1-Piperidin-4-yl-4-pyridin-4-ylimidazolidin-2-one | N1CCC(CC1)N1C(NC(C1)C1=CC=NC=C1)=O | C13H18N4O
